US04374829
In the manner described in example 24, 4-(3-indolyl)-2-oxobutyric acid and L-alanyl-L-proline are condensed in the presence of sodium cyanoborohydride to yield N-[1-carboxy-3-(3-indolyl)propyl]L-alanyl-L-proline. The mass spectrum of the trisilyated material shows a molecular ion at 603 m/e and a M+ -15 peak at 588 m/e.

reactant | 4-(3-indolyl)-2-oxobutyric acid | N1C=C(C2=CC=CC=C12)CCC(C(=O)O)=O | C12H11NO3
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-[1-carboxy-3-(3-indolyl)propyl]L-alanyl-L-proline | C(=O)(O)C(CCC1=CNC2=CC=CC=C12)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H25N3O5
